US05719182
e) 1RS,2RS,3RS)-2-Cyanomethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
(1RS,2RS,3RS)-2-Methanesulfonyloxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (1.5 g, 2.96 mmol) was stirred in DMF (10 ml) under argon with NaCN (1.45 g, 29.6 mmol) at 60° C. for 20 h then cooled and partitioned between EtOAc and 3N HCl. The organic extract was washed with H2O, saturated NaHCO3 solution, H2O, then brine, dried (Na2SO4) and solvent removed in vacuo to afford the title compound as an oil (1.27 g, 86%).

reactant | (1RS,2RS,3RS)-2-Methanesulfonyloxymethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 2.96 mmol, 1.5 g | CS(=O)(=O)OCC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C30H34O9S
reactant | NaCN | 29.6 mmol, 1.45 g | [C-]#N.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Cyanomethyl-3-(4-methoxy-2-methoxymethoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 1.27 g, 86% | C(#N)CC1C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)OC)OCOC)OCCC)C1=CC2=C(C=C1)OCO2 | C30H31NO6
